US08431575B2
A solution of 4-(tert-butoxycarbonylamino-methyl)-4-hydroxy-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester (42.0 mmol, 19.0 g) in DCM (50 mL) was treated with 4 N HCl in dioxane (80 mL) and stirred for 90 minutes. The solvents were removed under reduced pressure, and the crude salt was triturated with diethyl ether, filtered, and dried to provide 4-aminomethyl-4-hydroxy-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester hydrochloride.

reactant | 4-(tert-butoxycarbonylamino-methyl)-4-hydroxy-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 42.0 mmol, 19.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCC(CC1)(O)CNC(=O)OC(C)(C)C | C26H32N2O5
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 4-aminomethyl-4-hydroxy-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester hydrochloride | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCC(CC1)(O)CN | InChI=1S/C21H24N2O3.ClH/c22-14-21(25)9-11-23(12-10-21)20(24)26-13-19-17-7-3-1-5-15(17)16-6-2-4-8-18(16)19;/h1-8,19,25H,9-14,22H2;1H
